US08372865B2
4-Fluorophenylmagnesium bromide (2M in THF; 130 ml) was added dropwise at 0° C. to a stirring solution of 6-chloronicotinic acid (12.92 g) in 150 mL of THF. After the addition was complete the reaction mixture was stirred at ambient temperature for 16 hours. The reaction mixture was cooled to −60° C. and acetic acid (105 ml) was added dropwise, resulting in formation of a solid. After the addition was complete the reaction mixture was warmed to ambient temperature. The reaction mixture was then cooled to 0° C. and quenched by addition of saturated aqueous ammonium chloride solution. The mixture was partitioned between water and ethyl acetate, and the organic layer was separated, washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was dissolved in hot ethyl acetate. Upon standing a solid precipitate formed, which was collected and dried to give 10.04 g of 4-(4-fluoro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyridine-3-carboxylic acid.

reactant | 4-Fluorophenylmagnesium bromide | 2M, 130 ml | FC1=CC=C(C=C1)[Mg]Br
reactant | 6-chloronicotinic acid | 12.92 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | acetic acid | 105 ml | C(C)(=O)O | C2H4O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-(4-fluoro-phenyl)-6-oxo-1,4,5,6-tetrahydro-pyridine-3-carboxylic acid | 10.04 g | FC1=CC=C(C=C1)C1C(=CNC(C1)=O)C(=O)O | C12H10FNO3
